US04742061
1-(2-Bromopropionyl)-1,2,3,4-tetrahydrobenzo[c]-1,5-naphthyridine hydrobromide
A solution of 15.0 g of 1,2,3,4-tetrahydrobenzo[c]-1,5-naphthyridine in 24 ml of 2-bromopropionyl bromide was stirred overnight at ambient temperature. The solution was then diluted with anhydrous diethyl ether and stirred for approximately 3 hours at ambient temperature. A precipitate separated from the solution. The precipitate was collected by vacuum filtration and dried under vacuum at 40° C. overnight. The solid was recrystallized from a mixture of 95% ethanol and anhydrous diethyl ether (1:2) to yield 28.22 g of a powdery solid.

reactant | 1,2,3,4-tetrahydrobenzo[c]-1,5-naphthyridine | 15.0 g | N1C=2C3=C(C=NC2CCC1)C=CC=C3 | C12H12N2
reactant | 2-bromopropionyl bromide | 24 ml | BrC(C(=O)Br)C | C3H4Br2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(2-Bromopropionyl)-1,2,3,4-tetrahydrobenzo[c]-1,5-naphthyridine hydrobromide | 28.22 g | Br.BrC(C(=O)N1C=2C3=C(C=NC2CCC1)C=CC=C3)C | InChI=1S/C15H15BrN2O.BrH/c1-10(16)15(19)18-8-4-7-13-14(18)12-6-3-2-5-11(12)9-17-13;/h2-3,5-6,9-10H,4,7-8H2,1H3;1H
